US04381398
In this Reference Example, 38.4 g of 5-fluoro-3-methyl-2-acetylbenzo [b] furan is dissolved in 200 ml of acetic acid and 32.0 g of bromine is added dropwise thereto at room temperature. The mixture solution is then stirred for 30 minutes at room temperature, whereby the color of bromine disappears and crystals are deposited from the solution. Then, the solution is filtered to obtain 38.0 g of 5-fluoro-3-methyl-2-(α-bromoacetyl) benzo [b] furan as crystals. (Yield: 70%). Melting point of the desired compound recrystallized from ethanol is 120°-123° C.

reactant | 5-fluoro-3-methyl-2-acetylbenzo [b] furan | 38.4 g | FC1=CC2=C(OC(=C2C)C(C)=O)C=C1 | C11H9FO2
reactant | bromine | 32.0 g | BrBr | Br2
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | 5-fluoro-3-methyl-2-(α-bromoacetyl) benzo [b] furan | 38.0 g, Yield: 70% | FC1=CC2=C(OC(=C2C)C(CBr)=O)C=C1 | C11H8BrFO2
